US08835648B2
(R)-1-[3-(1H-Benzoimidazol-2-yl)-4-chloro-phenyl]-piperidine-3-carboxylic acid ethyl ester
Method 2—Step d To a mixture of 2-[2-Chloro-5-((R)-3-ethoxycarbonyl-piperidin-1-yl)-phenyl]-benzoimidazole-1-carboxylic acid tert-butyl ester (1.30 g, 2.68 mmol) in dichloromethane (2 mL), 2M HCl in Et2O (10 mL) was added and the resulting mixture was stirred overnight at room temperature. The solid was filtered off, then recovered with 10% NaOH (10 mL) and extracted with dichloromethane (3×10 mL). The organic layer was dried over Na2SO4, filtered and concentrated under reduced pressure, to get 0.81 g of the title compound without further purifications (85%).

reactant | 2-[2-Chloro-5-((R)-3-ethoxycarbonyl-piperidin-1-yl)-phenyl]-benzoimidazole-1-carboxylic acid tert-butyl ester | 2.68 mmol, 1.30 g | C(C)(C)(C)OC(=O)N1C(=NC2=C1C=CC=C2)C2=C(C=CC(=C2)N2C[C@@H](CCC2)C(=O)OCC)Cl | C26H30ClN3O4
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
solvent | HCl | 2M | Cl | ClH
solvent | Et2O | 10 mL | CCOCC | C4H10O
product | (R)-1-[3-(1H-Benzoimidazol-2-yl)-4-chloro-phenyl]-piperidine-3-carboxylic acid ethyl ester | 0.81 g | C(C)OC(=O)[C@H]1CN(CCC1)C1=CC(=C(C=C1)Cl)C1=NC2=C(N1)C=CC=C2 | C21H22ClN3O2
